US07265144B2
Preparation of (2.6-dimethylphenyl) hydrazine hydrochloride
To a cold (0° C.) solution of 2,6-dimethylaniline (5.0 g, 41.3 mmol) in 50% aqueous HCl (45 mL), was added slowly under stirring a cold (0° C.) solution of NaNO2 (2.85 g, 41.3 mmol) in water (22.5 mL). The temperature was closely monitored during the addition and was not allowed to exceed 5° C. Upon completion of the addition, the bright orange solution containing the diazonium salt intermediate was stirred at the same temperature for 20 min. A mixture of SnCl2 (11.0 g, 57.8 mmol) in conc HCl (30 mL) was added to the reaction mixture at 0° C. over a period of ˜5 min. The reaction mixture was then warmed to rt and stirred for 6 h. The precipitate was collected by filtration and washed with a small volume of cold water. Drying in vacuo afforded the title compound as a white amorphous solid (7.00 g, 98%). The product was used in the next step without further purification. ES-MS m/z 137.0 (MH+); HPLC RT (min) 1.09.

reactant | 2,6-dimethylaniline | 41.3 mmol, 5.0 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | NaNO2 | 41.3 mmol, 2.85 g | N(=O)[O-].[Na+]
reactant | SnCl2 | 57.8 mmol, 11.0 g | Cl[Sn]Cl
solvent | HCl | 45 mL | Cl | ClH
solvent | water | 22.5 mL | O | H2O
solvent | HCl | 30 mL | Cl | ClH
product | (2.6-dimethylphenyl) hydrazine hydrochloride | Cl.CC1=C(C(=CC=C1)C)NN | InChI=1S/C8H12N2.ClH/c1-6-4-3-5-7(2)8(6)10-9;/h3-5,10H,9H2,1-2H3;1H
